US05189181
A mixture of 2,6-dimethylaniline (40 parts) and methanol (150 parts) was stirred at ambient temperature. Glyoxylic acid 50% w/v (24.5 parts) was added and the mixture was stirred for 24 hours at ambient temperature. The precipitated product was isolated by filtration, washed with methanol (30 parts) and dried to yield di(4-amino-3,5-dimethylphenyl)acetic acid (44.3 parts).

reactant | 2,6-dimethylaniline | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | Glyoxylic acid | C(C=O)(=O)O | C2H2O3
solvent | methanol | CO | CH4O
product | di(4-amino-3,5-dimethylphenyl)acetic acid | NC1=C(C=C(C=C1C)C(C(=O)O)C1=CC(=C(C(=C1)C)N)C)C | C18H22N2O2
